US08471027B2
A stirred suspension of N-(5-chloro-2-propionyl-phenyl)-N-phenyl-oxalamic acid methyl ester (15.0 g, 43.5 mmol) in methanol (200 mL) was treated with potassium carbonate (35.0 g, 253 mmol) at 25° C. The mixture was then heated at 80° C. for 1 h. At this time, the reaction was cooled to 25° C. The resulting solids were collected by filtration through a sintered glass funnel and then washed with methanol (2×50 mL). The filtrate was concentrated in vacuo. The resulting residue was dissolved in ethyl acetate (500 mL) and was washed with water (2×200 mL). The organics were dried over sodium sulfate, filtered and concentrated in vacuo. The resulting solids were triturated with hexanes and diethyl ether to afford 7-chloro-3-methyl-4-oxo-1-phenyl-1,4-dihydro-quinoline-2-carboxylic acid methyl ester (10.5 g, 73.4%). 1H NMR (DMSO-d6) δ ppm 8.24 (d, J=8.7 Hz, 1H), 7.28-7.78 (m, 6H), 6.69 (d, J=1.7 Hz, 1H), 3.49 (s, 3H), 1.97 (s, 3H); MS m/e calcd for C18H14ClNO3 [(M+H)+] 328.0. Found 327.9.

reactant | N-(5-chloro-2-propionyl-phenyl)-N-phenyl-oxalamic acid methyl ester | 43.5 mmol, 15.0 g | COC(C(=O)N(C1=CC=CC=C1)C1=C(C=CC(=C1)Cl)C(CC)=O)=O | C18H16ClNO4
reactant | potassium carbonate | 253 mmol, 35.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 200 mL | CO | CH4O
product | 7-chloro-3-methyl-4-oxo-1-phenyl-1,4-dihydro-quinoline-2-carboxylic acid methyl ester | 10.5 g, 73.4% | COC(=O)C=1N(C2=CC(=CC=C2C(C1C)=O)Cl)C1=CC=CC=C1 | C18H14ClNO3
